US04656269
A solution of 24.5 g of 2-(1-naphthylmethylene)succinic acid in 260 ml of acetic anhydride was heated at 60° C. for 1 hour, and the reaction mixture was evaporated under reduced pressure. A mixture of benzene and hexane (1:1) was added to the residue, and the precipitated crystals were collected by filtration to obtain 16.0 g of 2-(1-naphthylmethyl)succinic anhydride as orange yellow crystals.

reactant | 2-(1-naphthylmethylene)succinic acid | 24.5 g | C1(=CC=CC2=CC=CC=C12)C=C(C(=O)O)CC(=O)O | C15H12O4
solvent | acetic anhydride | 260 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(1-naphthylmethyl)succinic anhydride | 16.0 g | C1(=CC=CC2=CC=CC=C12)CC1C(=O)OC(C1)=O | C15H12O3
